US05021443
A solution of 20.9 g of 4-chlorobenzylamine and 15.7 g of 2,5-dichloro-3-nitropyridine in 250 ml of xylene and 20 ml of 2-methyl-5-ethylpyridine is refluxed for 30 hours. After cooling, water is added to the reaction mixture, the resulting mixture is then extracted with ethyl acetate and the organic phase is washed with a dilute solution of hydrochloric acid and dried over magnesium sulfate. The solvent is evaporated off under vacuum and the residue obtained crystallizes from isopropyl ether to give 21.1 g of 2-(4-chlorophenylmethylamino)-3-nitro-5-chloropyridine in the form of crystals melting at 120° C.

reactant | 4-chlorobenzylamine | 20.9 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | 2,5-dichloro-3-nitropyridine | 15.7 g | ClC1=NC=C(C=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | water | O | H2O
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | 2-methyl-5-ethylpyridine | 20 ml | CC1=NC=C(C=C1)CC | C8H11N
product | 2-(4-chlorophenylmethylamino)-3-nitro-5-chloropyridine | 21.1 g | ClC1=CC=C(C=C1)CNC1=NC=C(C=C1[N+](=O)[O-])Cl | C12H9Cl2N3O2
